US07375227B2
357D. 1-[2-(4-Phenoxy-piperidin-1-yl)-ethyl]-3-quinolin-4-yl-urea
To a solution of 4-phenoxy-piperidine (0.03 mmol) in dry THF (1 mL) is added 1-(2-chloro-ethyl)-3-quinolin-4-yl-urea (0.03 mmol), solid NaHCO3 (2.5 mg), and Nal (1 mg). The flask is tightly sealed, and shaken at 70° C. for 6 days. The reaction mixture is evaporated, taken up in aqueous formic acid, and purified by preparative HPLC to provide the title compound.

reactant | 4-phenoxy-piperidine | 0.03 mmol | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
reactant | 1-(2-chloro-ethyl)-3-quinolin-4-yl-urea | 0.03 mmol | ClCCNC(=O)NC1=CC=NC2=CC=CC=C12 | C12H12ClN3O
reactant | NaHCO3 | 2.5 mg | C(=O)(O)[O-].[Na+]
reactant | Nal | 1 mg | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(4-Phenoxy-piperidin-1-yl)-ethyl]-3-quinolin-4-yl-urea | O(C1=CC=CC=C1)C1CCN(CC1)CCNC(=O)NC1=CC=NC2=CC=CC=C12 | C23H26N4O2
